US08859494B2
[3-(2-Chloro-4-trifluoromethylphenoxymethyl)oxetan-3-yl]methanol
600 mg of 3-chloro-4-hydroxybenzotrifluoride and 829 mg of 3-bromomethyl-3-oxetanemethanol were dissolved in 20 ml of acetonitrile, and 1.49 g of cesium carbonate were added. The reaction mixture was heated to 110° C. and stirred at this temperature for three hours. 50 ml of water and 50 ml of ethyl acetate were added to the cooled reaction mixture. The organic phase was removed, dried over MgSO4 and then concentrated under reduced pressure. The residue was purified on silica gel with the n-heptane/ethyl acetate solvent mixture as a linear gradient of 100% n-heptane=>100% ethyl acetate. This gave 990 mg of [3-(2-chloro-4-trifluoromethylphenoxymethyl)oxetan-3-yl]methanol.

reactant | 3-chloro-4-hydroxybenzotrifluoride | 600 mg | ClC=1C=C(C=CC1O)C(F)(F)F | C7H4ClF3O
reactant | 3-bromomethyl-3-oxetanemethanol | 829 mg | BrCC1(COC1)CO | C5H9BrO2
reactant | cesium carbonate | 1.49 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 50 ml | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | [3-(2-Chloro-4-trifluoromethylphenoxymethyl)oxetan-3-yl]methanol | ClC1=C(OCC2(COC2)CO)C=CC(=C1)C(F)(F)F | C12H12ClF3O3
